US08455646B2
Preparation of (3-ethyl-phenylamino)-phenyl-acetic acid hydrochloride (I42)
Ethyl 2-bromo-2-phenylacetate (0.29 mL, 1.64 mmol), 3-ethylaniline (0.31 mL, 2.47 mmol), and N-ethyl-N-isopropylpropan-2-amine (0.43 mL, 2.47 mmol) are dissolved in acetonitrile (5 mL) and stirred under MW irradiation at 100° C. for 1 hour (Conversion complete by UPLC/MS-UV). Lithium hydroxide hydrate (207 mg, 4.94 mmol) and water (3 mL) are added and the mixture is stirred at RT for 16 hours. 4M HCl in dioxane is added until pH 1 and the solvents are evaporated. The residue is suspended in water, sonicated, cooled at 0° C. and filtered under suction. The recovered white solid is dried under vacuum at 40° C. overnight (414 mg, 86% yield).

reactant | Ethyl 2-bromo-2-phenylacetate | 1.64 mmol, 0.29 mL | BrC(C(=O)OCC)C1=CC=CC=C1 | C10H11BrO2
reactant | 3-ethylaniline | 2.47 mmol, 0.31 mL | C(C)C=1C=C(N)C=CC1 | C8H11N
reactant | N-ethyl-N-isopropylpropan-2-amine | 2.47 mmol, 0.43 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | Lithium hydroxide hydrate | 4.94 mmol, 207 mg | O.[OH-].[Li+]
reactant | HCl | 4M | Cl | ClH
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
product | (3-ethyl-phenylamino)-phenyl-acetic acid hydrochloride | 86% yield | Cl.C(C)C=1C=C(C=CC1)NC(C(=O)O)C1=CC=CC=C1 | InChI=1S/C16H17NO2.ClH/c1-2-12-7-6-10-14(11-12)17-15(16(18)19)13-8-4-3-5-9-13;/h3-11,15,17H,2H2,1H3,(H,18,19);1H
